US04761489
A mixture of 580 g (5 moles) of hex-3-ene-2,5-diol, 3 g of p-toluenesulfonic acid, 360 g (5 moles) of n-butanal and 1 l of toluene was refluxed, and the resulting water of reaction (108 ml) was removed in the course of 3 h. Thereafter, the mixture was left to cool to room temperature, 10 ml of a 25% strength aqueous sodium hydroxide solution were added, the mixture was washed neutral with a little water and the toluene was removed under reduced pressure at from 50° to 60° C. The residue obtained was distilled under 0.1 mbar to give 681 g (4 moles) of 2-propyl-4,7-dimethyl-4,7-dihydro-1,3-dioxepin of boiling point 70° C./0.1 mbar.

reactant | hex-3-ene-2,5-diol | 5 moles, 580 g | CC(C=CC(C)O)O | C6H12O2
reactant | n-butanal | 5 moles, 360 g | C(CCC)=O | C4H8O
reactant | toluene | 1 l | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid | 3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | water | O | H2O
product | 2-propyl-4,7-dimethyl-4,7-dihydro-1,3-dioxepin | 4 moles, 681 g | C(CC)C1OC(C=CC(O1)C)C | C10H18O2
